US07723378B2
A mixture of crude 3-bromo-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid ethyl ester (774 mg, 2.44 mmol), CuO (99 mg, 1.25 mmol) and NaOMe (540 mg, 10 mmol) in methanol (3 mL) is refluxed for 76 h. The mixture is diluted with ether (75 mL) and extracted with 1 N aq. NaOH (2×30 mL). The aq. extracts are acidified with 2 N aq. HCl (75 mL) and extracted with DCM (3×50 mL). The organic extracts are dried (Na2SO4), filtered and evaporated to provide crude 3-methoxy-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (262 mg). This material is dissolved in dry diethyl ether (10 mL) and methyllithium (0.7 mL, 1.6 N in diethyl ether) is added slowly at room temperature. After 15 min, the mixture is diluted with diethyl ether (50 mL), extracted with 1 N aq. NaOH (2×5 mL), dried (Na2SO4), filtered and evaporated. The crude product is purified by CC on silica gel eluting with heptane/EA to provide 1-(3-methoxy-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (44 mg) as a yellow oil; LC-MS: tR=1.03 min, [M+1]=239.30; 1H NMR (CDCl3): δ 3.96 (s, 3H), 2.98 (t, J=6.4 Hz, 2H), 2.41 (s, 3H), 2.26 (s, 2H), 1.53 (t, J=6.4 Hz, 2H), 0.95 (s, 6H).

reactant | 3-bromo-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid ethyl ester | 2.44 mmol, 774 mg | C(C)OC(=O)C=1SC(=C2C1CCC(C2)(C)C)Br | C13H17BrO2S
reactant | NaOMe | 10 mmol, 540 mg | C[O-].[Na+]
reactant | methyllithium | 1.6 N, 0.7 mL | C[Li]
solvent | methanol | 3 mL | CO | CH4O
solvent | ether | 75 mL | CCOCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1-(3-methoxy-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 44 mg | COC1=C2C(=C(S1)C(C)=O)CCC(C2)(C)C | C13H18O2S
